US05985901
Step E: Ethyl 2-(3-bromo-4-hydrazinophenyl)-2-methylpropionate
A solution of 0.091 g of ethyl 2-(4-amino-3-bromophenyl)-2-methylpropionate in 0.32 mL of concentrated hydrochloric acid was stirred at -10 to -5° C. in an ice-acetone bath as a solution of 0.023 g of sodium nitrite in 0.20 mL of water was added dropwise over about 15 minutes. Stirring was continued at this temperature for an additional 30 minutes. Next, the supernatant was removed by syringe and added dropwise over 10 minutes to a solution of 0.36 g of stannous chloride dihydrate in 0.25 mL of concentrated hydrochloric acid stirred under nitrogen in an ice-acetone bath. The addition was carried out at such a rate that the internal temperature remained at about -5° C. A gummy material separated during the addition. After completion of the addition, stirring was continued at -10 to -5° C. for 1 hour. The mixture was then diluted with 60 mL ethyl acetate and washed with sodium carbonate. The organic layer was washed with water and brine then dried over magnesium sulfate. Concentration in vacuo gave the crude title compound.

reactant | ethyl 2-(4-amino-3-bromophenyl)-2-methylpropionate | 0.091 g | NC1=C(C=C(C=C1)C(C(=O)OCC)(C)C)Br | C12H16BrNO2
reactant | sodium nitrite | 0.023 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 0.32 mL | Cl | ClH
solvent | water | 0.20 mL | O | H2O
product | Ethyl 2-(3-bromo-4-hydrazinophenyl)-2-methylpropionate | BrC=1C=C(C=CC1NN)C(C(=O)OCC)(C)C | C12H17BrN2O2
